US04215048
m-Chloroperbenzoic acid (36 g, 0.175 M) is added in five portions to a mixture of ethyl 4-methyl-8-methylene-(E)-4,9-decadienoate (40 g, 0.18 M) and methylene chloride (1 l), at -8° C. under nitrogen and the resulting mixture is stirred for two hours. The precipitate is filtered and the filtrate dried in vacuo to give crude ethyl 4-methyl-8-methylene-4,5-oxido-9-decenoate. This material is dissolved in methanol (200 ml) and the resulting solution is treated with saturated potassium carbonate solution (50 ml) and water (50 ml) and stirred overnight. Most of the methanol is removed in vacuo, the residue is cooled to 0° C. and slowly treated with conc. hydrochloric acid (150 ml). The resulting mixture is extracted with ether (3×350 ml). The combined organic layers are dried (Na2SO4), the solvent is removed in vacuo, and the residue (52 g) is purified by column chromatography on silica gel (400 g) with ether-petroleum ether (4:1) to give 2-(1-hydroxy-4-methylene-5-hexenyl)-2-methyl-5-oxo-tetrahydrofuran as a colorless liquid (22 g, 58%).

reactant | m-Chloroperbenzoic acid | 0.175 M, 36 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | ethyl 4-methyl-8-methylene-(E)-4,9-decadienoate | 0.18 M, 40 g | C/C(/CCC(=O)OCC)=C\CCC(C=C)=C | C14H22O2
reactant | methylene chloride | 1 l | C(Cl)Cl | CH2Cl2
reactant | potassium carbonate | 50 ml | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 200 ml | CO | CH4O
solvent | water | 50 ml | O | H2O
product | 2-(1-hydroxy-4-methylene-5-hexenyl)-2-methyl-5-oxo-tetrahydrofuran | 22 g, 58% | OC(CCC(C=C)=C)C1(OC(CC1)=O)C | C12H18O3
